US06320078B1
0.8 ml of N,N-dimethylformamide was added to a toluene suspension (2000 ml) including 40 g (0.14 mole) of 4-[N-(pyridin-3-ylmethoxycarbonyl)aminomethyl]benzoic acid. Then, 24 ml of oxalyl chloride were added dropwise to the resultant mixture, followed by stirring for 4 hours. A deposited white solid was collected by filtration to obtain 47.7 g (quantitative) of 4-[N-(pyridin-3-ylmethoxycarbonyl)aminomethyl]benzoyl chloride hydrochloride.

reactant | N,N-dimethylformamide | 0.8 ml | CN(C=O)C | C3H7NO
reactant | 4-[N-(pyridin-3-ylmethoxycarbonyl)aminomethyl]benzoic acid | 0.14 mole, 40 g | N1=CC(=CC=C1)COC(=O)NCC1=CC=C(C(=O)O)C=C1 | C15H14N2O4
reactant | oxalyl chloride | 24 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | toluene | 2000 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[N-(pyridin-3-ylmethoxycarbonyl)aminomethyl]benzoyl chloride hydrochloride | 47.7 g | Cl.N1=CC(=CC=C1)COC(=O)NCC1=CC=C(C(=O)Cl)C=C1 | InChI=1S/C15H13ClN2O3.ClH/c16-14(19)13-5-3-11(4-6-13)9-18-15(20)21-10-12-2-1-7-17-8-12;/h1-8H,9-10H2,(H,18,20);1H
